US03962249
1-[3-(o-Methylphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of 1-[3-(o-methylphenyl)propyl]piperazine [b.p. 135° - 136°C (2 mmHg), dihydrochloride, m.p. 240° - 245°C], 2-furoyl chloride and benzene.

reactant | 1-[3-(o-methylphenyl)propyl]piperazine | CC1=C(C=CC=C1)CCCN1CCNCC1 | C14H22N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[3-(o-Methylphenyl)propyl]-4-(2-furoyl)piperazine hydrochloride | Cl.CC1=C(C=CC=C1)CCCN1CCN(CC1)C(=O)C=1OC=CC1 | InChI=1S/C19H24N2O2.ClH/c1-16-6-2-3-7-17(16)8-4-10-20-11-13-21(14-12-20)19(22)18-9-5-15-23-18;/h2-3,5-7,9,15H,4,8,10-14H2,1H3;1H
